US06414148B1
Diethyl azodicarboxylate (400 mg, 2.3 mmol) was added dropwise to a mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (250 mg, 0.78 mmol), (prepared as described for the starting material in Example 2), triphenylphosphine (615 mg, 2.3 mmol) and 4-(2-hydroxyethyl)-3-morpholinone (170 mg, 1.17 mmol), (EP 580402A2), in methylene chloride (5 ml) under nitrogen. The mixture was stirred for 4 hours at ambient temperature, methylene chloride (5 ml) was added and stirring was continued for a further 18 hours at ambient temperature. THF (5 ml). 4-(2-hydroxyethyl)-3-morpholinone (113 mg, 0.78 mmol). triphenylphosphine (204 mg, 0.78 mmol) were added and diethyl azodicarboxylate (136 mg, 0.78 mmol) was then added dropwise. The mixture was stirred for 5 minutes at ambient temperature, and was purified by pouring directly onto a silica column, eluting with methylene chloride/ethyl acetate/methanol (5/4/1). The purified solid was dissolved in methylene chloride and 2M methanolic hydrogen chloride (0.5 ml) was added. The mixture was concentrated by evaporation and then diluted with ether. The resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(3-oxomorpholino)ethoxy)quinazoline hydrochloride (150 mg, 39%).

reactant | Diethyl azodicarboxylate | 2.3 mmol, 400 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.78 mmol, 250 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | triphenylphosphine | 2.3 mmol, 615 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(2-hydroxyethyl)-3-morpholinone | 1.17 mmol, 170 mg | OCCN1C(COCC1)=O | C6H11NO3
reactant | 4-(2-hydroxyethyl)-3-morpholinone | 0.78 mmol, 113 mg | OCCN1C(COCC1)=O | C6H11NO3
reactant | triphenylphosphine | 0.78 mmol, 204 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.78 mmol, 136 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(3-oxomorpholino)ethoxy)quinazoline hydrochloride | 150 mg, 39% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C(COCC2)=O)C=C1)F | InChI=1S/C21H20ClFN4O4.ClH/c1-29-18-9-14-17(10-19(18)31-7-5-27-4-6-30-11-20(27)28)24-12-25-21(14)26-16-3-2-13(22)8-15(16)23;/h2-3,8-10,12H,4-7,11H2,1H3,(H,24,25,26);1H
